US07700594B2
Methyl trans-4-cyanocyclohexanecarboxylate
Chlorosulfonyl isocyanate (1.0 mL, 0.012 mol) was added to a solution of trans-4-(methoxycarbonyl)cyclohexanecarboxylic acid (2.00 g, 0.0107 mol) in DCM cooled to 0° C. The resulting solution was heated at reflux for 15 minutes and then cooled 0° C. and treated dropwise with DMF. The mixture was stirred at room temperature overnight then poured onto ice water and the organic phase separated and washed with a saturated solution of sodium bicarbonate. The solvent was removed in vacuo and the crude material was taken up in ethyl acetate, washed with 1N aq. NaOH (10 mL) and the ethyl acetate removed in vacuo. The resulting crude product was used in subsequent steps without further purification. 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 1.36-1.70 (4H, m), 2.01-2.18 (4H, m), 2.24-2.54 (2H, m) and 3.68 (3H, s).

reactant | Chlorosulfonyl isocyanate | 0.012 mol, 1.0 mL | ClS(=O)(=O)N=C=O | CClNO3S
reactant | trans-4-(methoxycarbonyl)cyclohexanecarboxylic acid | 0.0107 mol, 2.00 g | COC(=O)[C@@H]1CC[C@H](CC1)C(=O)O | C9H14O4
reactant | DMF | CN(C)C=O | C3H7NO
solvent | DCM | C(Cl)Cl | CH2Cl2
product | Methyl trans-4-cyanocyclohexanecarboxylate | C(#N)[C@@H]1CC[C@H](CC1)C(=O)OC | C9H13NO2
